US07060827B2
In like manner to the preparation of N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(3-hydroxyphenyl)-2,4-pyrimidinediamine, the reaction of 2-chloro-N4-(4-ethoxyphenyl)-5-fluoro-4-pyrimidineamine with 3,4-dimethoxyaniline gave N2-(3,4-dimethoxyphenyl)-N4-(4-ethoxyphenyl)-5-fluoro-2,4-pyrimidinediamine. 1H NMR (CDCl3): δ 7.89 (d, 1H, J=3 Hz), 7.45 (bd, 2H, J=9 Hz), 7.20 (d, 1H, J=2.4 Hz), 6.96–6.77 (m, 5H), 6.63 (bs, 1H), 4.03 (q, 2H, J=7.2 Hz), 3.86 (s, 3H), 3.72 (s, 3H), 1.42 (t, 3H, J=7.2 Hz); 19F NMR (CDCl3): −47473.

reactant | 2-chloro-N4-(4-ethoxyphenyl)-5-fluoro-4-pyrimidineamine | ClC1=NC=C(C(=N1)NC1=CC=C(C=C1)OCC)F | C12H11ClFN3O
reactant | 3,4-dimethoxyaniline | COC=1C=C(N)C=CC1OC | C8H11NO2
product | N2-(3,4-dimethoxyphenyl)-N4-(4-ethoxyphenyl)-5-fluoro-2,4-pyrimidinediamine | COC=1C=C(C=CC1OC)NC1=NC=C(C(=N1)NC1=CC=C(C=C1)OCC)F | C20H21FN4O3
